US07855225B2
To a solution of 0.4 mL of ethyl di-o-tolylphosphonoacetate in 15 mL of THF was added 0.67 g of a 40% benzyltrimethylammonium hydroxide-methanol solution under cooling in a dry ice-acetone bath, and the resulting mixture was stirred at −70° C. for 15 minutes. To the solution, a solution of 0.47 g of 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carbaldehyde in 5 mL of THF was added, the resulting mixture was stirred at −70° C. for 1.5 hours and under cooling in an ice-methanol bath for 1 hour. To the solution, 50 mL of saturated aqueous sodium chloride solution was added, the mixture was extracted with 100 mL of ethyl acetate, the extract was washed with water and saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=1:5) to obtain 0.53 g of ethyl (2Z)-3-{1-[(4-bromophenyl)sulfonyl]-1H-indol-2-yl}acrylate as a pale yellow syrup. ESI−: 432, 434

reactant | ethyl di-o-tolylphosphonoacetate | 0.4 mL | C1(=C(C=CC=C1)OP(=O)(OC1=C(C=CC=C1)C)CC(=O)OCC)C | C18H21O5P
reactant | benzyltrimethylammonium hydroxide methanol | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C.CO
reactant | 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carbaldehyde | 0.47 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C=O | C15H10BrNO3S
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl (2Z)-3-{1-[(4-bromophenyl)sulfonyl]-1H-indol-2-yl}acrylate | 0.53 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)\C=C/C(=O)OCC | C19H16BrNO4S
